US05716954
Following the procedures of Example 8A and substituting for 8-(3-nitrophenyl) pyrido[2,3-d]pyridazin-5-one with 5-(3-nitrophenyl)-pyrido[2,3-d]pyridazin-8-one there is obtained 5-(3-nitrophenyl)-7-ethylpyrido[2,3-d]pyridazin-8-one.

reactant | 8-(3-nitrophenyl) pyrido[2,3-d]pyridazin-5-one | [N+](=O)([O-])C=1C=C(C=CC1)C1=NNC(C2=C1N=CC=C2)=O | C13H8N4O3
reactant | 5-(3-nitrophenyl)-pyrido[2,3-d]pyridazin-8-one | [N+](=O)([O-])C=1C=C(C=CC1)C=1C2=C(C(NN1)=O)N=CC=C2 | C13H8N4O3
product | 5-(3-nitrophenyl)-7-ethylpyrido[2,3-d]pyridazin-8-one | [N+](=O)([O-])C=1C=C(C=CC1)C=1C2=C(C(N(N1)CC)=O)N=CC=C2 | C15H12N4O3
